US07259175B2
(3-Hydroxy-phenyl)-acetic acid methyl ester (166 mg, 1.0 mmol) is dissolved into anhydrous acetonitrile (ACN) (5 mL). Toluene-4-sulfonic acid 2-[5-ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethyl ester (432 mg, 0.950 mmol) is added to the reaction, followed by the addition of cesium carbonate (652 mg, 2.00 mmol). The reaction is allowed to stir under nitrogen at room temperature and monitored by TLC and HPLC. Upon complete consumption of the tosylate, the reaction is diluted with diethyl ether and quenched with 0.1N NaOH. The two phases are separated, then the organic layer washed with water and brine. The organic phase is dried over anhydrous sodium sulfate and concentrated under vacuum. The residue is further purified using either EtOAc/Hexanes (1:9) or Acetone/Hexanes (1:9) gradients on silica gel chromatography to yield (3-{2-[5-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethoxy}-phenyl)-acetic acid methyl ester (140 mg, 0.311 mmol) or 33%.

reactant | (3-Hydroxy-phenyl)-acetic acid methyl ester | 1.0 mmol, 166 mg | COC(CC1=CC(=CC=C1)O)=O | C9H10O3
reactant | Toluene-4-sulfonic acid 2-[5-ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethyl ester | 0.950 mmol, 432 mg | C(C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCOS(=O)(=O)C1=CC=C(C=C1)C | C21H20F3NO3S2
reactant | cesium carbonate | 2.00 mmol, 652 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (3-{2-[5-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethoxy}-phenyl)-acetic acid methyl ester | 0.311 mmol, 140 mg | COC(CC1=CC(=CC=C1)OCCC=1N=C(SC1CC)C1=CC=C(C=C1)C(F)(F)F)=O | C23H22F3NO3S
